US07094779B2
[5-((morpholin-4-yl)methyl)isoxazol-3-yl]methyl 2-tetrahydropyranyl ether (1.0 g) was dissolved in methanol (2 mL) and treated with 1 M HCl (aq. 10 mL). The mixture was stirred at room temperature for 1 h, then basified with K2CO3, and extracted with dichloromethane. The organic layers were dried (Na2SO4), and concentrated in vacuo. The residue was purified by flash chromatography (SiO2, CH2Cl2/MeOH/NH4OH 92/7.5/0.5) to afford [5-((morpholin-4-yl)methyl)-isoxazol-3-yl]methanol (53%). MH+ 199, Rf 0.24 (CH2Cl2/MeOH/NH4OH 92/7.5/0.5).

reactant | [5-((morpholin-4-yl)methyl)isoxazol-3-yl]methyl 2-tetrahydropyranyl ether | 1.0 g | O1C(CCCC1)OCC1=NOC(=C1)CN1CCOCC1 | C14H22N2O4
reactant | HCl | 1 M, 10 mL | Cl | ClH
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 2 mL | CO | CH4O
product | [5-((morpholin-4-yl)methyl)-isoxazol-3-yl]methanol | 53% | N1(CCOCC1)CC1=CC(=NO1)CO | C9H14N2O3
